US04060528
A mixture of 20 parts of m-bromo-α-methylbenzylalcohol and 16.8 parts of 3,4-dihydropyran is cooled in an ice-bath and there are added 2 drops of hydrochloric acid solution. The whole is stirred overnight at 0° C and then allowed to come to room temperature. The mixture is poured onto ether and shaken successively with a sodium hydrogen carbonate solution and twice with water. The organic layer is separated, dried, filtered and evaporated. The residue is distilled, yielding 2-(m-bromo-α-methylbenzyloxy)tetrahydropyran; bp. 168°-169° C at 12 mm. pressure.

reactant | m-bromo-α-methylbenzylalcohol | BrC=1C=C(C(C)O)C=CC1 | C8H9BrO
reactant | 3,4-dihydropyran | O1CCCC=C1 | C5H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | O | H2O
product | 2-(m-bromo-α-methylbenzyloxy)tetrahydropyran | BrC=1C=C(C(OC2OCCCC2)C)C=CC1 | C13H17BrO2
